US07625886B2
1.2a) (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-(4-oxo-piperid-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
200 mg (1.30 mmol) piperidin-4-one (used as the hydrate of the hydrochloride salt) were added to a solution of 500 mg (0.98 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 350 mg (1.09 mmol) TBTU, 300 μL (2.15 mmol) triethylamine in 10 mL DMF and the reaction mixture was stirred for 4 h at RT. The reaction solution was evaporated down i. vac., the residue was taken up in DCM, the organic phase was washed with saturated NaHCO3 solution and dried on Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, gradient DCM/MeOH 20:1 to DCM/MeOH 10:1). The fractions containing the product were concentrated by evaporation, the residue was stirred with DIPE, suction filtered and dried.

reactant | piperidin-4-one | 1.30 mmol, 200 mg | N1CCC(CC1)=O | C5H9NO
reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.98 mmol, 500 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 1.09 mmol, 350 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 2.15 mmol, 300 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-(4-oxo-piperid-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)=O)=O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C31H35N5O7
